US05919793
Sodium hydride (1.20 g; 60% dispersion in oil) was added over a period of 10 minutes to a stirred solution of 4-allyloxybenzyl alcohol (4.60 g) in DHF (20 ml) at 0° C. under an atmosphere of argon. After 0.5 hours, a solution of methylchloroacetate (3.30 g) in DMF (10 ml) was added over a period of 0.25 hours. The reaction mixture was stirred for 40 hours at ambient temperature. Water (300 ml) was added and the mixture extracted with ethyl acetate (3×100 ml). The ethyl acetate extracts were combined, washed with brine (2×100 ml), dried (MgSO4) and evaporated. The residue was purified by flash column chromatography on silica gel using a 9:1 (v/v) mixture of hexane/ethyl acetate to give 4-allyloxyphenylmethyloxy acetate (2.42 g) as a colourless oil; NMR(CDCl3): 3.75(3H,s), 4.07(2H,s), 4.52(4H,m), 5.36(2H,m), 6.10(1H,m), 6.88(2H,m) and 7.28(2H,m); m/z 236(H).

reactant | Sodium hydride | 1.20 g | [H-].[Na+]
reactant | 4-allyloxybenzyl alcohol | 4.60 g | C(C=C)OC1=CC=C(CO)C=C1 | C10H12O2
reactant | methylchloroacetate | 3.30 g | COC(CCl)=O | C3H5ClO2
reactant | Water | 300 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-allyloxyphenylmethyloxy acetate | 2.42 g | C(C)(=O)OOCC1=CC=C(C=C1)OCC=C | C12H14O4
